US07091214B2
N-[2-(3-Amino-7-phenylquinolin-4-ylamino)-1,1-dimethylethyl]methanesulfonamide (2.20 g, 5.04 mmol) was treated with trimethyl orthobutyrate (0.90 mL, 5.5 mmol) according to the method described in Part G of Example 1. The chromatographic purification was carried out eluting with 92.5:7.5 dichloromethane:methanol to provide 1.8 g of N-[2-(7-phenyl-2-propyl-1H-imidazo[4,5-c]quinolin-1-yl)-1,1-dimethylethyl]methanesulfonamide as a tan solid.

reactant | N-[2-(3-Amino-7-phenylquinolin-4-ylamino)-1,1-dimethylethyl]methanesulfonamide | 5.04 mmol, 2.20 g | NC=1C=NC2=CC(=CC=C2C1NCC(C)(C)NS(=O)(=O)C)C1=CC=CC=C1 | C20H24N4O2S
reactant | trimethyl orthobutyrate | 5.5 mmol, 0.90 mL | C(CCC)(OC)(OC)OC | C7H16O3
product | N-[2-(7-phenyl-2-propyl-1H-imidazo[4,5-c]quinolin-1-yl)-1,1-dimethylethyl]methanesulfonamide | 1.8 g | C1(=CC=CC=C1)C=1C=CC=2C3=C(C=NC2C1)N=C(N3CC(C)(C)NS(=O)(=O)C)CCC | C24H28N4O2S
